US06211234B1
A solution of ethyl 2-benzyl-5-(4-benzyloxyphenyl)-2H-pyrazole-3-carboxylate (1.2 g) in methanol (125 mL) is treated with 10% aqueous potassium hydroxide solution (10 mL, w/v) and the mixture is heated to reflux for 2 hours. The reaction mixture is evaporated in vacuo, stirred with 1N hydrochloric acid (50 mL) and extracted with ethyl acetate (100 mL). The organic phase is dried over magnesium sulphate, evaporated in vacuo, and the residue crystallised from a mixture of ethyl acetate and cyclohexane to give 2-benzyl-5-(4-benzyloxyphenyl)-2H-pyrazole-3-carboxylic acid (0.55 g), m.p. 207-208° C. [Elemental analysis:- C,75.2; H,5.20; N,7.30%. Calculated:- C,75.0; H,5.20; N,7.30%].

reactant | ethyl 2-benzyl-5-(4-benzyloxyphenyl)-2H-pyrazole-3-carboxylate | 1.2 g | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)OCC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C26H24N2O3
reactant | potassium hydroxide | 10 mL | [OH-].[K+]
solvent | methanol | 125 mL | CO | CH4O
product | 2-benzyl-5-(4-benzyloxyphenyl)-2H-pyrazole-3-carboxylic acid | 0.55 g | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H20N2O3
